* DC regulation transient test - 1mA, pre-charged for fast settling
.title T1b 1mA Transient

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir

* Flat wiring (not subcircuit so we can set ICs)
XM_pass gate bvdd pvdd pass_device
Rss avbg vref_ss 100k
Css vref_ss 0 10n
XEA vref_ss vfb ea_out pvdd 0 ibias bvdd bvdd error_amp
XFB pvdd vfb 0 feedback_network
XCOMP ea_out pvdd 0 compensation
XILIM gate bvdd pvdd 0 ilim_flag current_limiter
XUV pvdd avbg uv_flag svdd 0 uvov_en uv_comparator
XOV pvdd avbg ov_flag svdd 0 uvov_en ov_comparator
XZC pvdd 0 zener_clamp
XMC bvdd pvdd svdd 0 en_ret bypass_en mc_ea_en ref_sel uvov_en ilim_en pass_off mode_control
XSU bvdd pvdd gate 0 avbg startup_done bvdd ea_out startup
XLS_EN en en_bvdd bvdd svdd 0 level_shifter_up
Cload pvdd 0 200e-12
Cout_ext pvdd 0 1u

Rload pvdd 0 5k

* BVDD already at 7V, pre-charged
Vbvdd bvdd 0 7
Vavbg avbg 0 1.226
Ibias ibias 0 DC 1u
Vsvdd svdd 0 2.2
Ven en 0 2.2
Ven_ret en_ret 0 0

.option reltol=1e-4 abstol=1e-12 vntol=1e-6
.option method=gear maxord=2 gmin=1e-10
.option itl1=500 itl2=500 itl4=500

* Pre-charge: vref_ss already at 1.226V, pvdd near 5V
.ic V(pvdd)=5.0 V(vref_ss)=1.226 V(gate)=6.0 V(ea_out)=6.0

.tran 1u 20m uic

.meas tran vpvdd_1ma avg V(pvdd) from=18m to=20m
.meas tran vfb_1ma avg V(vfb) from=18m to=20m
.meas tran vgate_1ma avg V(gate) from=18m to=20m

.control
run
quit
.endc
.end
